US04771046
945 mg of trisodium phosphorothioate were added to a solution of 1.05 g of 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride in 6.4 ml of water, cooled with ice-water, and the mixture was stirred at room temperature for about one hour. 5.2 ml of 1N hydrochloric acid were added, and the mixture was heated at 65° C. for 30 minutes and then concentrated under reduced pressure. The concentrate was mixed with 5.2 ml of methanol, insolubles were filtered off, and the filtrate was concentrated under reduced pressure. Anhydrous ether was added to the concentrate, and the precipitated crystals were collected by filtration and washed with ether, giving 670 mg of 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylmercaptan hydrochloride.

reactant | trisodium phosphorothioate | 945 mg | P([O-])([O-])([O-])=S.[Na+].[Na+].[Na+]
reactant | 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride | 1.05 g | Cl.ON=C1CN(CC1)C(CCl)=N
reactant | hydrochloric acid | 1N, 5.2 ml | Cl | ClH
solvent | water | 6.4 ml | O | H2O
product | 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylmercaptan hydrochloride | 670 mg | Cl.ON=C1CN(CC1)C(CS)=N | InChI=1S/C6H11N3OS.ClH/c7-6(4-11)9-2-1-5(3-9)8-10;/h7,10-11H,1-4H2;1H
